US07166598B2
To a stirred suspension of 2-[3-methoxy-4-(trifluoromethyl)benzyl]piperazine dihydrobromide (109 mg), potassium iodide (109 mg) and N,N-diisopropylethylamine (0.26 ml) in N,N-dimethylformamide (4 ml) was added (2R)-4-(2-chloroethyl)-2-(methoxymethyl)morpholine hydrochloride (29 mg) at 5° C. under nitrogen atmosphere and the mixture was gradually warmed to room temperature overnight. To the above stirred suspension was added 3,5-bis(trifluoromethyl)-benzoyl chloride (118 mg) at 5° C. and the mixture was stirred for 1 hour at the same temperature. The mixture was extracted with ethyl acetate and the extract was washed with water, and dried over magnesium sulfate. The usual work up followed by flash chromatography on silica gel with a mixture of dichloromethane and methanol (60:1) gave the product, which was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate to give 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-methoxy-4-(trifluoromethyl)benzyl]-4-[2-[(2S)-2-(methoxymethyl)-morpholino]ethyl]piperazine dihydrochloride (22 mg) as a powder.

reactant | 2-[3-methoxy-4-(trifluoromethyl)benzyl]piperazine dihydrobromide | 109 mg | Br.Br.COC=1C=C(CC2NCCNC2)C=CC1C(F)(F)F
reactant | potassium iodide | 109 mg | [I-].[K+]
reactant | N,N-diisopropylethylamine | 0.26 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R)-4-(2-chloroethyl)-2-(methoxymethyl)morpholine hydrochloride | 29 mg | Cl.ClCCN1C[C@@H](OCC1)COC
reactant | 3,5-bis(trifluoromethyl)-benzoyl chloride | 118 mg | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-methoxy-4-(trifluoromethyl)benzyl]-4-[2-[(2S)-2-(methoxymethyl)-morpholino]ethyl]piperazine dihydrochloride | 22 mg | Cl.Cl.FC(C=1C=C(C(=O)N2C(CN(CC2)CCN2C[C@H](OCC2)COC)CC2=CC(=C(C=C2)C(F)(F)F)OC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H34F9N3O4.2ClH/c1-44-18-24-17-41(9-10-46-24)6-5-40-7-8-42(23(16-40)11-19-3-4-25(30(37,38)39)26(12-19)45-2)27(43)20-13-21(28(31,32)33)15-22(14-20)29(34,35)36;;/h3-4,12-15,23-24H,5-11,16-18H2,1-2H3;2*1H/t23?,24-;;/m0../s1
